US07812017B2
1-[(2-Methoxy-5-methylphenyl)sulfonyl]-1H-indole-4-carbaldehyde
To a slurry of sodium hydride (165 mg, 6.9 mmol) in DMF (5 ml) indole-4-carboxaldehyde (500 mg, 3.4 mmol) was added. The mixture was stirred for 15 min and then the 2-methoxy-5-methyl-benzenesulfonyl chloride (1140 mg, 5.2 mmol) was added and the mixture was stirred for 1 h at room temperature. Water was added and the reaction mixture was extracted with EtOAc. Evaporation gave 1.2 g. MS (ESI+) for C17H15NO4S m/z 330 (M+H)+.

reactant | sodium hydride | 6.9 mmol, 165 mg | [H-].[Na+]
reactant | DMF | 3.4 mmol, 5 ml, 500 mg | CN(C)C=O | C3H7NO
reactant | 2-methoxy-5-methyl-benzenesulfonyl chloride | 5.2 mmol, 1140 mg | COC1=C(C=C(C=C1)C)S(=O)(=O)Cl | C8H9ClO3S
reactant | Water | O | H2O
product | 1-[(2-Methoxy-5-methylphenyl)sulfonyl]-1H-indole-4-carbaldehyde | COC1=C(C=C(C=C1)C)S(=O)(=O)N1C=CC=2C(=CC=CC12)C=O | C17H15NO4S
